US06890959B2
182 g 9-dimethylaminomethyl-8-(3-methoxy-phenyl)-3,3-dimethyl-1,5-dioxa-spiro[5.5]undecan-8-ol were dissolved in 1,200 ml tetrahydrofuran and the reaction mixture was cooled to 5° C. A mixture of 600 ml 32% hydrochloric acid solution and 600 ml water was added at this temperature. The mixture was stirred at room temperature for 72 hours. When the reaction had ended 500 ml ethyl acetate were added at 5° C. and the reaction mixture was then brought to pH 12 with 32% sodium hydroxide solution. The phases were separated and the aqueous phase was washed three times with 300 ml ethyl acetate each time. The combined organic phases were then washed twice with 100 ml saturated sodium chloride solution each time, dried over magnesium sulfate and then freed from the solvent. Purification was carried out via hydrochloride formation. For this, 4-dimethylaminomethyl-3-(3-methoxy-phenyl)-cyclohex-2-enone base was dissolved in 500 ml acetone and an equimolar amount of water and trimethylchlorosilane was added. The hydrochloride which had precipitated out was filtered off with suction and dried in vacuo. 63.6 g (78.9% of theory) 4-dimethylaminomethyl-3-(3-methoxy-phenyl)-cyclohex-2-enone hydrochloride were obtained in this way. b) rac-cis-[4-Dimethylaminomethyl-3-hydroxy-3-(3-methoxy-phenyl)-cyclohexanone]hydrochloride (compound 1)

reactant | 9-dimethylaminomethyl-8-(3-methoxy-phenyl)-3,3-dimethyl-1,5-dioxa-spiro[5.5]undecan-8-ol | 182 g | CN(C)CC1C(CC2(OCC(CO2)(C)C)CC1)(O)C1=CC(=CC=C1)OC | C21H33NO4
reactant | hydrochloric acid | 600 ml | Cl | ClH
reactant | water | 600 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 1,200 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 4-dimethylaminomethyl-3-(3-methoxy-phenyl)-cyclohex-2-enone hydrochloride | 63.6 g, 78.9% | Cl.CN(C)CC1C(=CC(CC1)=O)C1=CC(=CC=C1)OC | InChI=1S/C16H21NO2.ClH/c1-17(2)11-13-7-8-14(18)10-16(13)12-5-4-6-15(9-12)19-3;/h4-6,9-10,13H,7-8,11H2,1-3H3;1H
